US08609656B2
Preparation of 3-trifluoromethyl-4-vinylaniline
In 20 mL of isopropanol, 10 mL of water and 5 mL of t-butylamine, 4.0 g (16.7 mmol) of 4-bromo-3-(trifluoromethyl)aniline was dissolved, and 4.0 g (29.9 mmol) of potassium (trifluoro)vinylborate and 300 mg (0.37 mmol) of PdCl2(dppf)2•2(dichloromethane) complex were added thereto, and the mixture solution was stirred in an argon atmosphere at 80° C. for 20 hours. The reaction solution was concentrated and the residue was partitioned between water and ethyl acetate, and the organic layer was washed with a saturated sodium chloride solution and concentrated under reduced pressure. The product was purified by a silica gel column (n-hexane:ethyl acetate=6:1) to obtain 2.475 g (79%) of a target product as a pale yellow oil.

reactant | 4-bromo-3-(trifluoromethyl)aniline | 16.7 mmol, 4.0 g | BrC1=C(C=C(N)C=C1)C(F)(F)F | C7H5BrF3N
reactant | potassium (trifluoro)vinylborate | 29.9 mmol, 4.0 g | FC(=C(F)F)OB([O-])[O-].[K+].[K+]
solvent | isopropanol | 20 mL | C(C)(C)O | C3H8O
solvent | water | 10 mL | O | H2O
solvent | t-butylamine | 5 mL | C(C)(C)(C)N | C4H11N
product | 3-trifluoromethyl-4-vinylaniline | 2.475 g, 79% | FC(C=1C=C(N)C=CC1C=C)(F)F | C9H8F3N
